US06103762
(d) methyl 2-hydroxy-4-[3-(4,4-dimethylchroman-8-yl)prop-1-ynyl]benzoate
1.18 g (5.9 mmol) of 3-(4,4-dimethylchroman-8-yl)-1-propyne, 1.60 g (5.9 mmol) of methyl 2-hydroxy-4-iodobenzoate and 60 ml of triethylamine are introduced into a three-necked flask under argon. The reaction mixture is degassed by sparging with nitrogen, 332 mg (0.46 mmol) of bis(triphenylphosphine)palladium(II) chloride and 134 mg of copper iodide are introduced and the mixture is stirred at room temperature for eight hours. The reaction mixture is evaporated to dryness, the residue is taken up in ethyl acetate and hydrochloric acid (1N), and the organic phase is separated by settling, dried over magnesium sulphate and evaporated. The residue is purified by chromatography on a silica column eluted with heptane. After evaporating the solvents, an oil, which slowly crystallizes, is obtained and is recrystallized from heptane. 1.00 g (50%) of methyl 2-hydroxy-4-[3-(4,4-dimethylchroman-8-yl)prop-1-ynyl]benzoate is collected in the form of a white solid with a melting point of 92-93° C.

reactant | 3-(4,4-dimethylchroman-8-yl)-1-propyne | 5.9 mmol, 1.18 g | CC1(CCOC2=C(C=CC=C12)CC#C)C | C14H16O
reactant | methyl 2-hydroxy-4-iodobenzoate | 5.9 mmol, 1.60 g | OC1=C(C(=O)OC)C=CC(=C1)I | C8H7IO3
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.46 mmol, 332 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 134 mg | [Cu](I)I
solvent | triethylamine | 60 ml | C(C)N(CC)CC | C6H15N
product | methyl 2-hydroxy-4-[3-(4,4-dimethylchroman-8-yl)prop-1-ynyl]benzoate | OC1=C(C(=O)OC)C=CC(=C1)C#CCC=1C=CC=C2C(CCOC12)(C)C | C22H22O4
